US04742057
To a mixture of 4-[4-(3-indolyl)piperidinomethyl]-2-aminothiazole (2 g), triethylamine (0.98 ml) and N,N-dimethylformamide (20 ml) was added trifluoroacetic anhydride (0.99 ml) over a period of 25 minutes at 1° to 3° C. and the mixture was stirred for 30 minutes. Triethylamine (0.18 ml) and trifluoroacetic anhydride (0.27 ml) was added thereto and the mixture was stirred for 35 minutes. And further, triethylamine (0.27 ml) and trifluoroacetic anhydride (0.27 ml) was added thereto and the mixture was stirred for 1.5 hours. The reaction mixture was concentrated and the residue was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (10:1 V/V) to give 4-[4-(3-indolyl)piperidinomethyl]-2-trifluoroacetylaminothiazole (0.46 g).

reactant | 4-[4-(3-indolyl)piperidinomethyl]-2-aminothiazole | 2 g | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1N=C(SC1)N | C17H20N4S
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | trifluoroacetic anhydride | 0.99 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic anhydride | 0.27 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic anhydride | 0.27 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | triethylamine | 0.27 ml | C(C)N(CC)CC | C6H15N
solvent | Triethylamine | 0.18 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.98 ml | C(C)N(CC)CC | C6H15N
product | 4-[4-(3-indolyl)piperidinomethyl]-2-trifluoroacetylaminothiazole | 0.46 g | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1N=C(SC1)NC(C(F)(F)F)=O | C19H19F3N4OS
